US08536214B2
b) Methyl 1-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate
A 150 mL steel autoclave was charged with N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (4.85 g, 15.24 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride (0.622 g, 0.762 mmol), and sodium carbonate (3.23 g, 30.5 mmol) in degassed methanol. The autoclave was placed under carbon monoxide atmosphere (12 bar) and stirred at 100° C. for 24 hr. After this time, catalyst and Na2CO3 were filtered off and replaced with a new batch and the reaction was stirred for 24 hr at 100° C. and 12 bar CO. The mixture was filtered and partitioned between EtOAc and brine, organic layer separated, washed with brine. To the organic layer was added silica and Na2SO4 added and stirred for 20 min. The whole was filtered and solvent evaporated in vacuo to give a brown oil. Purification by flash chromatography (0-50% EtOAc in heptane) afforded the title compound as a yellow/brown oil (1 g, 22%). 1H NMR (400 MHz, CDCl3) δ 1.46 (d, 6H) 1.95 (m, 1H) 2.65 (m, 1H) 2.85 (m, 1H) 3.00 (m, 1H) 3.25 (m, 1H) 3.91 (s, 3H) 4.25 (d, 1H) 5.00 (q, 1H) 7.50 (d, 1H) 7.90 (m, 2H).

reactant | N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 15.24 mmol, 4.85 g | BrC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
reactant | sodium carbonate | 30.5 mmol, 3.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride | 0.762 mmol, 0.622 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 1-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | 1 g, 22% | CC(C)S(=O)(=O)NC1CCC2=CC(=CC=C12)C(=O)OC | C14H19NO4S
